US04663344
A mixture of 2-phenyl-2-(2'-carboxy-3'-hydroxyphenylthio)-acetic acid (0.19 g, 0.62 mmol), sodium acetate (0.38 g) and acetic anhydride (2 ml) was heated at 60° C. for 10 minutes, with vigorous gas evolution taking place. The mixture was poured into ice-water and extracted with diethyl ether. The combined organic extracts were washed with 1% aqueous sodium hydroxide, water, dried (sodium sulfate), and evaporated. The residue was subjected to chromatography and evaporated. The residue was subjected to chromatography on a column of silica gel (Merck No. 7734), eluting with 1:1 hexane-ether to afford 3,4-diacetoxy-2-phenylbenzo[b]thiophene as a white solid; yield 29 mg (14%); m/z 326 (M+.).

reactant | 2-phenyl-2-(2'-carboxy-3'-hydroxyphenylthio)-acetic acid | 0.62 mmol, 0.19 g | C1(=CC=CC=C1)C(C(=O)O)SC1=C(C(=CC=C1)O)C(=O)O | C15H12O5S
reactant | sodium acetate | 0.38 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3,4-diacetoxy-2-phenylbenzo[b]thiophene | C(C)(=O)OC=1C2=C(SC1C1=CC=CC=C1)C=CC=C2OC(C)=O | C18H14O4S
